Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Codeine / Latex / Lactose / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
Hemodialysis

 
History of Present Illness:
History of Present Illness:  ___ year-old male with history of 
ESRD on HD, CAD, ___ with resultant cardiac liver chirrosis, 
RUE fistula s/p multiple revisions presenting today with 
generalized weakness. The patient is on ___ dialysis 
sessions.
.
Per the patient's report he has been in usual state of health 
for the past several weeks no significant complaints, fevers or 
otherwise.  On ___ the patient decided that he had had enough 
with dialysis and refused to go.  His family asked that a social 
worker see him at the house, but he was adimant that he would 
not go to dialysis.  On ___ the patient continued to feel fine 
with no complaints.  Late ___ night and into ___ morning 
the patient developed several episodes of loose stool without 
abdominal pian, nausea or vomitting.  On the morning of 
admission patient states he "felt terrible", was unable to walk 
or stand, felt that his legs were going to buckle underneath 
him.  Also felt that he was tremors and unable to hold a cup of 
tea.  He denies any fevers, chills, pain, swelling in his arms 
or legs, increased abdominal distention or abdominal pain.  His 
mother called and ambulance and he was brought to the ED.
.  
In the ED, initial vs were: 97.9 86 142/86 18 98% RA. Patient 
was noted to have chronic ulcerations on bilateral knees, over 
chronic venous stasis.  Patient was admitted for dialysis prior 
to arrival on the floor.  HD was uneventful by report.
.  
On the floor, patient's vitals were 97.8, 135/85, 86, 20, 96RA.  
And he was reporting improvement in his tremor as well as 
jerking in his legs.  He denied any pain or current abdominal 
symptoms.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, 
constipation or abdominal pain. No recent change in bladder 
habits. No dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
ESRD on HD ___, anemia, CAD, hypertension, systolic CHF,
hypothyroidism, psoriasis, restless leg syndrome, h/o L3 burst
fracture, s/p spinal fusion L2-4 ___, h/o MSSA osteomyelitis,
h/o MSSA epidural abscess, h/o MSSA paraspinal abscess, h/o MSSA
bacteremia.

 
Social History:
___
Family History:
Father died of MI in ___ mother alive and well ___; 8 siblings, 
one of whom has HTN, one who has a cerebral aneurysm; he has no 
children.
 
Physical Exam:
ADMISSION EXAM:
Vitals:  97.8, 135/85, 86, 20, 96RA 
General: very caxcectic man, appears very anxious, Alert, 
oriented, no acute distress, with a flat yet worried affect 
appears mildly disheveled. 
HEENT: Sclera mildly icteric, MMM, oropharynx clear, eczemathous 
plaque on left ear lobe. 
Neck: very little supperficial tissue, easily palpable 
lymphnodes that do not appear enlarged, easily palpable thyroid 
w/o masses.  Lungs: Clear to auscultation bilaterally, no 
wheezes, rales, ronchi  
CV: Regular rate and rhythm, normal S1 + S2, faint ___ systolic 
murmur in the precoridum and apex no rubs, gallops  
Abdomen:  grossly distented with easily visulaized epigastric 
veins, positive fluid wave and distention of the flanks 
bilaterally.  pingpong ball sized errythematous mass in the LUQ 
with small scar below.  + bowel sounds, non-tender.
GU: no foley, some errythematous plaques in inguinal area, 
easily to palpate, non-tender, mobile lymphnodes.  No lesions on 
glans or testees.   
Ext: very wasted w/ little muscle mass.  large protruberent 
fistula on RUE, Right tunneled line inplace w/o errythema, 
scaling errythematous plaques on plams, arms bilaterally, 
chronic venous chagnes in feet and lower extremities with thick 
finger and toe nails. 
Neuro: CNs2-12 intact, motor function grossly normal w/ 4+ 
strenght in all extremities, not able to illict DTRs, no 
flapping ___, but occasional whole body myoclonic 
jerking.  + rhomberg, pt unwilling to atempt gait testing.  No 
sensory defects noticed, normal FNF.  
.
DISCHARGE EXAM:
Vitals:  98, 132/84, 73, 18, 97 RA
General: very caxcectic man, NAD, though anxious affect is 
remarkable
HEENT: Sclera mildly icteric, MMM, oropharynx clear, eczemathous 
plaque on left ear lobe. 
Neck: very little supperficial tissue, easily palpable 
lymphnodes that do not appear enlarged, easily palpable thyroid 
w/o masses.  Lungs: Clear to auscultation bilaterally, no 
wheezes, rales, ronchi  
CV: Regular rate and rhythm, normal S1 + S2, faint ___ systolic 
murmur in the precoridum and apex no rubs, gallops  
Abdomen:  grossly distented with easily visulaized epigastric 
veins, positive fluid wave and distention of the flanks 
bilaterally.  pingpong ball sized errythematous mass in the LUQ 
with small scar below.  + bowel sounds, non-tender.   
Ext: very wasted w/ little muscle mass.  large protruberent 
fistula on RUE, Right tunneled line inplace w/o errythema, 
scaling errythematous plaques on plams, arms bilaterally, 
chronic venous chagnes in feet and lower extremities with thick 
finger and toe nails.
 
Pertinent Results:
ADMISSION LABS:
___ 02:00PM BLOOD WBC-6.7 RBC-3.96* Hgb-11.8* Hct-37.0* 
MCV-93 MCH-29.7 MCHC-31.8 RDW-16.4* Plt ___
___ 02:00PM BLOOD ___ PTT-36.7* ___
___ 02:00PM BLOOD Glucose-54* UreaN-34* Creat-5.0* Na-134 
K-6.8* Cl-94* HCO3-23 AnGap-24*
___ 07:20AM BLOOD ALT-14 AST-29 CK(CPK)-57 AlkPhos-213* 
TotBili-0.4
___ 07:20AM BLOOD Albumin-3.2* Calcium-8.9 Phos-5.5* Mg-2.1
___ 06:40AM BLOOD TSH-3.2

DISCHARGE LABS:
___ 06:33AM BLOOD WBC-5.9 RBC-3.68* Hgb-10.5* Hct-33.9* 
MCV-92 MCH-28.5 MCHC-30.9* RDW-15.9* Plt ___
___ 06:33AM BLOOD Glucose-105* UreaN-31* Creat-5.4*# Na-138 
K-4.9 Cl-94* HCO3-38* AnGap-11

IMAGING:
CXR:  FINDINGS: Bilateral pleural effusions persist and are 
likely increased slightly. Heart size is again noted to be 
enlarged. Pulmonary vascular engorgement persists and is 
similar. Lung volumes are low. Linear opacities at the right 
base appear similar compared to prior and likely represent 
atelectasis or scarring. Lumbar spine hardware is incompletely 
imaged.  Right-sided dialysis catheter is poorly evaluated on 
this study, but likely terminates in the low right atrium. Right 
subclavian stent is again noted. 
  
IMPRESSION: Stable cardiomegaly, pulmonary vascular prominence, 
and bilateral pleural effusions, probably increased somewhat. 

MICROBIOLOGY:
Blood Cultures:  Pending
 
Brief Hospital Course:
Assessment and Plan:  ___ yo male with end stage renal, liver, 
heart and lung disease along with overlaying depression who was 
admitted with weakness after missing a dialysis appointment two 
days prior to admission.  Patient recieved dialysis with 
improvement in his symptoms.  Patient was screened by ___ and 
determined to need short term rehab.

#WEAKNESS:  PER PCP this is indeed the complaints a man with 
multiorgan failure and progressive decline over several months.  
Patient had some improvement in his symptoms with dialysis 
though there was a singificant contribution of his symptoms by 
decondidtioning.  Patient was seen by physical therapy who 
recommended that he receive short term rehabilitation to improve 
his endurance and balance.  There were no major metabolic, 
infectious or hemodynamic causes of his weakness uncovered and 
the patient was discharged to rehab.  Depression and poor coping 
were felt to play a major contribution to his symptoms and a 
palliative care consult was placed to discuss long term goals of 
care.  It was determiend that the patient would go to rehab and 
if continued to have progressive decline a move towards comfort 
focus care would be made.
.
#ESRD:  Patient missed his scheduled dialysis due to 
non-compliance per his family's report.  He was dialysised 
according to his normal schedule while and inpatient and had a 
mild improvement in his symptoms of weakness.  Patient continued 
to recieve all his usual renal medications.
.
#Systolic CHF:  patient has a EF of ___ on last ECHO from 
___ and stable cardiac exam.  Patient continued onaspirin, 
lisinopril, metoprolol while in house.
.
#CHIRRHOSIS:  patient with history of cardiac induced cirrhosis 
from chronic hepatic congestion.  Has had infectious as well as 
autoimmune workup for chirrohsis in the past which were 
negative.  No derangements in his liver function was observed 
and the patient recieved lactulose to treat any enchilitis that 
may have been contributing to his depression.
.
#CHRONIC PAIN: From compression fractures s/p fusion.  Will 
continue home dilaudid at 8 mg BID.
.
#RESTLESS LEG SYNDROME:  Stable, continued home gabapentin and 
ropinirole.  
.
#HTN:  Good systolic pressures at this time, will continue 
lisinopril.  
.
#HYPOTHYROID:  will continue synthroid per home dosing as TSH 
was not elevated.
.
#COPD:  Lungs clear on exam and CXR w/o no respiratory 
complaints, will continue titropium and albuterol.
.
#DEPRESSION:  Patient's depression was identified as a major 
barrier to his longterm care needs, he was continued on his home 
buproprion and clonazepam.  Activating medications including 
ritalin were entertained, but felt that his underlying cardiac 
and liver disease percluded its use.
.
TRANSITIONAL ISSUES: 
-Primary nephrologist raised issue of future neuro-cognative 
testing
-patient is a full code, but should be reassed as his chronic 
issues continue to evolve
-Palliative care consultation was placed to address future, 
needs patient still wishes to persue treatment of chronic issues 
at this time
-patinet's blood cultures were pending, but no growth at the 
time of discharge.  

 
Medications on Admission:
- albuterol 90mcg ___ puffs Q4hrs
- Renal Caps 1mg daily
- Betamethasone dipropionate 0.05% Cream daily
- bupropion Hcl 150mg daily
- clonazepam 1mg daily PRN
- Gabapentin 900mg QHS
- Hydromorphone 8mg BID
- levothyroxine 125mcg daily
- lisinopril 5mg daily
- metoprolol succinate 100mg daily
- mometasone 0.1% lotion BID
- ropinirole 0.25mg QHS
- sevelamer 2400mg TID
- tiotropium 18mcg 2 puffs daily
- trazodone 50mg QHS
- Vit C 500mg daily
- ASA 81mg daily

 
Discharge Medications:
1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1) Puff Inhalation Q4H (every 4 hours).  
2. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
3. betamethasone dipropionate 0.05 % Cream Sig: One (1) Appl 
Topical BID (2 times a day).  
4. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO QAM (once a day (in the morning)).  
5. clonazepam 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for anxiety.  
6. gabapentin 300 mg Capsule Sig: Three (3) Capsule PO HS (at 
bedtime).  
7. hydromorphone 2 mg Tablet Sig: Four (4) Tablet PO BID (2 
times a day).  
8. levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
11. mometasone 0.1 % Cream Sig: One (1)  Topical BID (2 times a 
day).  
12. ropinirole 0.25 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
13. sevelamer carbonate 800 mg Tablet Sig: Three (3) Tablet PO 
TID W/MEALS (3 TIMES A DAY WITH MEALS).  
14. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
15. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
16. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
17. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
18. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
19. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day).  
20. nicotine 7 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
- End Stage Renal Disease on a TuThSa dialysis schedule

SECONDARY
- Systolic heart failure
- Anemia
- Chronic ascites and cirrhosis from congestive hepatopathy
- Compression fractures, s/p L2-4 fusion causing chronic pain
- Hypertension
- hypothyroidism
- restless leg syndrome
- psoriasis
- Chronic Obstructive Pulmonary Disease
- Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you while you were in the 
hospital.  You were admitted for evaluation of your weakness and 
difficulty standing.  This was felt to be related to missing 
your dialysis session and a result of your chronic liver, lung, 
heart and kidney diseases.  You were seen by our physical 
therapists who felt that you would benefit from rehab, Dr. 
___ Dr. ___ agreed as did your family.  

The following changes were made to your medications:
-Start Lactulose 30 mL three times a day
 
Followup Instructions:
___